US07259163B2
4-(2-Hydroxyethyl)pyrimidine
A mixture of 4-methylpyrimidine (10 g, 106 mmol) and para-formaldehyde (3 g) was stirred in a 50 mL sealed capacity pressure vessel at 165° C. for 3.5 hours. After cooling, ether was added and the solvents evaporated to afford an oil. This was purified by silica column chromatography using a Flashmaster system, eluting with dichloromethane, then chloroform, ether, and finally ethyl acetate. The ethyl acetate fractions were evaporated to afford the title compound as an oil.

reactant | 4-methylpyrimidine | 106 mmol, 10 g | CC1=NC=NC=C1 | C5H6N2
reactant | para-formaldehyde | 3 g | C=O | CH2O
solvent | ether | CCOCC | C4H10O
product | 4-(2-Hydroxyethyl)pyrimidine | OCCC1=NC=NC=C1 | C6H8N2O
